US07144899B2
To a stirred −78° C. solution of 4-chloro-2-methylbenzonitrile (5.00 g, 32.98 mmol) in Et2O (190 mL) was added 1 M DIBAL in THF (66.0 mL) over 10 min. After 5 h additional 1M DIBAL in THF (3.30 mL) was added dropwise and the solution was stirred for 1 hour. The reaction was quenched with water followed by concentrated H2SO4 and stirred at ambient temperature for 16 h. The solution was extracted into Et2O, dried (Na2SO4) and reduced in vacuo. 4-Chloro-2-methylbenzaldehyde was isolated as a yellow oil. 1H NMR (CDCl3, 400 MHz) δ 2.59 (s, 3H), 7.19 (s, 1H), 7.26 (d, J=8.2 Hz, 1H), 7.66 (d, J=8.2 Hz, 1H), 10.15 (s, 1H).

reactant | 4-chloro-2-methylbenzonitrile | 32.98 mmol, 5.00 g | ClC1=CC(=C(C#N)C=C1)C | C8H6ClN
reactant | DIBAL | 1 M | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 1M | CC(C)C[AlH]CC(C)C
reactant | Et2O | 190 mL | CCOCC | C4H10O
solvent | THF | 66.0 mL | C1CCOC1 | C4H8O
solvent | THF | 3.30 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-methylbenzaldehyde | ClC1=CC(=C(C=O)C=C1)C | C8H7ClO
